US07087750B2
1-[(5-Chloro-1,3-dimethyl-1H-pyrazol-4-yl)sulfonyl]-4-(1-piperazinyl)-1H-indole hydrochloride (Scheme 1)
The title compound was prepared from 4-(4-boc-piperazinyl)-indole and 5-chloro-1,3-dimethyl-1H-pyrazol-4yl-sulfonyl chloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.17 (br, 1 H), 7.78 (d, J=3 Hz, 1 H), 7.49 (d, J=8 Hz, 1 H), 7.28 (t, J=8 Hz, 1 H), 6.93 (d, J=3 Hz, 1 H), 6.87 (d, J=8 Hz, 1 H), 3.72 (s, 3 H), 3.28 (m, 8 H), 2.34 (s, 3 H); MS (ESI+) for m/z 394 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | 5-chloro-1,3-dimethyl-1H-pyrazol-4yl-sulfonyl chloride | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
product | 1-[(5-Chloro-1,3-dimethyl-1H-pyrazol-4-yl)sulfonyl]-4-(1-piperazinyl)-1H-indole hydrochloride | Cl.ClC1=C(C(=NN1C)C)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1 | InChI=1S/C17H20ClN5O2S.ClH/c1-12-16(17(18)21(2)20-12)26(24,25)23-9-6-13-14(4-3-5-15(13)23)22-10-7-19-8-11-22;/h3-6,9,19H,7-8,10-11H2,1-2H3;1H
